US06964966B2
Paraformaldehyde (10 g) was added to the stirred solution of 4-amino-1-benzyl-3-ethyl-3-methylpiperidine (8.0 g, 34 mmol) in methanol (100 ml) at 0° C. and sodium cyanoborohydride (2.14 g, 34 mmol) was added to it. Then, acetic acid (2 ml) was added to the resulting mixture and stirring was continued for 24 hr at ambient temperature. The reaction mixture was concentrated to dryness, triturated with water, acidified with conc. HCl (pH 3˜4) and extracted with ethyl acetate to remove impurities. The aqueous layer was basified with 1 M sodium hydroxide solution (pH˜10) and extracted with ethyl acetate. Ethyl acetate extract was dried (Na2SO4) and concentrated to give 1-benzyl-4-dimethylamino-3-ethyl-3-methylpiperidine. Yield 6 g (67%), C17H28N2, m/z 261 (M+1).

reactant | Paraformaldehyde | 10 g | C=O | CH2O
reactant | 4-amino-1-benzyl-3-ethyl-3-methylpiperidine | 34 mmol, 8.0 g | NC1C(CN(CC1)CC1=CC=CC=C1)(C)CC | C15H24N2
reactant | sodium cyanoborohydride | 34 mmol, 2.14 g | C(#N)[BH3-].[Na+]
reactant | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 100 ml | CO | CH4O
product | 1-benzyl-4-dimethylamino-3-ethyl-3-methylpiperidine | C(C1=CC=CC=C1)N1CC(C(CC1)N(C)C)(C)CC | C17H28N2
